US07662831B2
Following the procedure of Example 1, Step 4, 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine (0.10 g, 0.44 mmol), phenylacetyl chloride (0.058 mL, 0.44 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-yl-2-phenylacetamide (10 mg). MS (ESI) m/z 345; HPLC purity 100% at 210-370 nm, 10.6 min.; 100% at 252 nm, 10.6 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C23H24N2O+H+, 345.19614; found (ESI, [M+H]+), 345.1959.

reactant | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine | 0.44 mmol, 0.10 g | C1=C2C3=C(N4C2=C(C=C1N)CC4)CCCCC3 | C15H18N2
reactant | phenylacetyl chloride | 0.44 mmol, 0.058 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-yl-2-phenylacetamide | 10 mg | C1=C2C3=C(N4C2=C(C=C1NC(CC1=CC=CC=C1)=O)CC4)CCCCC3 | C23H24N2O
